US07109225B2
b] 2-Isobutyrylamino-pent-4-enoic acid ethyl ester
11.74 g of the above prepared isobutyrylamino-acetic acid ethyl ester (67.78 mmol) was dissolved in 250 ml of abs. THF and cooled down to −78°. 139 ml of 1M lithium hexamethyldisilazide in hexane (2.05 eq.) were added within 30 Min. via dropping funnel. After keeping the yellow suspension for additional 30 Min. at −78°, 6.021 ml of allyl bromide (1.05 eq.) was added and stirring continued for 15 Min. at the same temperature and for 30 Min. at 0°. Pouring of the homogeneous reaction mixture onto crashed ice/HCl, twofold extraction with AcOEt, twofold washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=7/3) afforded. 11.70 g of the title compound as pale-yellow oil.

reactant | isobutyrylamino-acetic acid ethyl ester | 67.78 mmol | C(C)OC(CNC(C(C)C)=O)=O | C8H15NO3
reactant | lithium hexamethyldisilazide | 1M, 139 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | hexane | 2.05 eq. | CCCCCC | C6H14
reactant | allyl bromide | 6.021 ml, 1.05 eq. | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-Isobutyrylamino-pent-4-enoic acid ethyl ester | 11.70 g | C(C)OC(C(CC=C)NC(C(C)C)=O)=O | C11H19NO3
